### PR TITLE
[Merged by Bors] - chore: generalize layercake formulas to null-measurable and a.e.-nonnegative functions

### PR DESCRIPTION
**Pull request by kkytola**
The layercake formulas (a typical example of which is ∫⁻ f^p ∂μ = p * ∫⁻ t in 0..∞, t^(p-1) * μ {ω | f(ω) > t}) had been originally proven assuming measurability and nonnegativity of `f`. This PR generalizes them to null-measurable and a.e.-nonnegative `f`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/MeasureTheory/Integral/Layercake.lean [hunk 1]
```diff
@@ -152,9 +150,20 @@ theorem lintegral_comp_eq_lintegral_meas_le_mul_of_measurable (μ : Measure α)
...
+    apply NullMeasurableSet.congr mble.nullMeasurableSet
+    rw [eventuallyEq_iff_exists_mem] at *
+    obtain ⟨s, ⟨s_null, f_eq_f₀_on_s⟩⟩ := f_aeeq_f₀
+    refine ⟨s ×ˢ univ, ⟨?_, fun p hp ↦ by simp [setOf, f_eq_f₀_on_s hp.1]⟩⟩
+    simp only [Measure.ae, Filter.mem_mk, mem_setOf_eq] at *
+    suffices : (μ.prod (volume : Measure ℝ)) (sᶜ ×ˢ univ) = 0
+    · convert this
+      ext p
+      simp only [mem_compl_iff, mem_prod, mem_univ, and_true]
+    rw [Measure.prod_prod, s_null, zero_mul]
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Integral/Layercake.lean:165]: Instead of having a block like that in the proof, could you state a lemma (extending `measurableSet_region_between_oc` to the ae measurable situation) that would be enough for your needs?

File: Mathlib/MeasureTheory/Integral/Layercake.lean [hunk 2]
```diff
@@ -268,8 +282,9 @@ variable {β : Type*} [MeasurableSpace β] [MeasurableSingletonClass β]
 
 namespace Measure
 
-theorem meas_le_ne_meas_lt_subset_meas_pos {R : Type*} [LinearOrder R] [MeasurableSpace R]
-    [MeasurableSingletonClass R] {g : α → R} (g_mble : Measurable g) {t : R}
+theorem meas_le_ne_meas_lt_subset_meas_pos₀
+    {α : Type*} [MeasurableSpace α] {μ : Measure α} {R : Type*} [LinearOrder R] [MeasurableSpace R]
+    [MeasurableSingletonClass R] {g : α → R} (g_mble : NullMeasurable g μ) {t : R}
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Integral/Layercake.lean:287]: do you really need measurability assumptions here? You always have `μ {a : α | t < g a} ≤ μ {a : α | t ≤ g a}` by monotonicity, and `μ {a : α | t ≤ g a} ≤ μ {a : α | t < g a} + μ {a : α | t = g a}` by `measure_union_le`, so if `μ {a : α | t = g a}` vanishes you deduce that the two measures coincide, contradicting `ht`.

Comment (kkytola) [reply Mathlib/MeasureTheory/Integral/Layercake.lean]: Thank you, measurability assumptions are indeed not needed! I still find it surprising that lemmas of this sort can hold without measurability assumptions, but this is a substantial improvement.

The naming was also strange (probably a remnant/combination of earlier phrasings); I changed it to `meas_eq_pos_of_meas_le_ne_meas_lt`.

File: Mathlib/MeasureTheory/Integral/Layercake.lean (hunk 1 above)
Comment (kkytola) [reply Mathlib/MeasureTheory/Integral/Layercake.lean:195]: Yes, that makes sense. I wasn't sure how often this would be needed, but splitting it off is certainly cleaner and possibly useful in the future. I guess the other variants `measurableSet_region_between_co`, `measurableSet_region_between_cc`, and `measurableSet_regionBetween` should be correspondingly generalized?

For now I did the basic variant as `nullMeasurableSet_regionBetween`, but I need another variant to actually refactor the proof. I will do that later this week.

Comment (kkytola) [reply Mathlib/MeasureTheory/Integral/Layercake.lean]: I now added a.e./null versions of `measurableSet_region_between_oc` and 3 friends in `MeasureTheory.Measure.Lebesgue.Basic` and the current longish proof can more or less just quote `nullMeasurableSet_region_between_oc` (a 2 lines `simpa only [...] using ...`).

File: Mathlib/MeasureTheory/Measure/Lebesgue/Basic.lean [hunk 3]
```diff
@@ -577,6 +577,90 @@ theorem volume_regionBetween_eq_lintegral [SigmaFinite μ] (hf : AEMeasurable f
...
+lemma measure_prod_univ_eq_zero_of_measure_eq_zero {α β : Type*}
+    [MeasurableSpace α] [MeasurableSpace β] {μ : Measure α} {ν : Measure β} [SigmaFinite ν]
+    {s : Set α} (s_ae_univ : μ sᶜ = 0) :
+    μ.prod ν (s ×ˢ univ)ᶜ = 0 := by
+  convert show (μ.prod ν) (sᶜ ×ˢ (univ : Set β)) = 0 by
+    simpa only [Measure.prod_prod, mul_eq_zero] using Or.inl s_ae_univ
+  ext p
+  simp only [mem_compl_iff, mem_prod, mem_univ, and_true]
+
+lemma nullMeasurableSet_prod_univ {α β : Type*} [MeasurableSpace α] [MeasurableSpace β]
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Measure/Lebesgue/Basic.lean:589]: Wouldn't it be more natural to have a lemma saying that, if `s` and `t` are both null-measurable, then so is their product?

Comment (kkytola) [reply Mathlib/MeasureTheory/Measure/Lebesgue/Basic.lean]: Yes, of course, sorry. I think I got lazy here because I didn't immediately find the result `(s ×ˢ t)ᶜ = (sᶜ ×ˢ univ) ∪ (univ ×ˢ tᶜ)`. I still can't find it, so I would add it as `Set.compl_prod_eq_union` or `Set.compl_prod`.

File: Mathlib/MeasureTheory/Measure/Lebesgue/Basic.lean [hunk 4]
```diff
@@ -577,6 +577,95 @@ theorem volume_regionBetween_eq_lintegral [SigmaFinite μ] (hf : AEMeasurable f
...
+lemma measure_prod_compl_eq_zero {α β : Type*}
+    [MeasurableSpace α] [MeasurableSpace β] {μ : Measure α} {ν : Measure β} [SigmaFinite ν]
+    {s : Set α} (s_ae_univ : μ sᶜ = 0) {t : Set β} (t_ae_univ : ν tᶜ = 0) :
+    μ.prod ν (s ×ˢ t)ᶜ = 0 := by
+  rw [Set.compl_prod_eq_union]
+  apply le_antisymm ((measure_union_le _ _).trans _) (zero_le _)
+  simp [s_ae_univ, t_ae_univ]
+
+-- Place where?
+lemma nullMeasurableSet_prod {α β : Type*} [MeasurableSpace α] [MeasurableSpace β]
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Measure/Lebesgue/Basic.lean:590]:
```suggestion
lemma NullMeasurableSet.prod {α β : Type*} [MeasurableSpace α] [MeasurableSpace β]
```
to enable dot notation.

File: Mathlib/MeasureTheory/Measure/Lebesgue/Basic.lean [hunk 5]
```diff
@@ -577,6 +577,95 @@ theorem volume_regionBetween_eq_lintegral [SigmaFinite μ] (hf : AEMeasurable f
           (regionBetween_subset (AEMeasurable.mk f hf) (AEMeasurable.mk g hg) s)).symm
 #align volume_region_between_eq_lintegral volume_regionBetween_eq_lintegral
 
+-- Place where?
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Measure/Lebesgue/Basic.lean:580]: close to `ae_prod_mem_iff_ae_ae_mem` in `MeasureTheory.Constructions.Prod.Basic`? Would any of the lemmas around help here, by the way?

Comment (kkytola) [reply Mathlib/MeasureTheory/Measure/Lebesgue/Basic.lean:580]: Oh, this lemma is newer than my branch. I will merge master and see. Thanks!

And thank you for the suggested placement! I intended to think about it once I got cache from the very low level file modification. Incidentally, I again had trouble getting `#find_home` to report a place --- maybe I'm using it incorrectly. But your suggestion looks like a perfect place now.

Comment (kkytola) [reply Mathlib/MeasureTheory/Measure/Lebesgue/Basic.lean]: I did not see a way to use the earlier results. The main reason, perhaps, is that most of the earlier results assume measurability of the set in the product space and these new lemmas are about null-measurability. My proofs of the trivialities `measure_prod_compl_eq_zero` and `NullMeasurableSet.prod` do seem suspiciously lengthy, but I don't find golfs now.

File: Mathlib/MeasureTheory/Integral/Layercake.lean [hunk 6]
```diff
@@ -268,35 +272,41 @@ variable {β : Type*} [MeasurableSpace β] [MeasurableSingletonClass β]
...
-    (ht : μ {a : α | t ≤ g a} ≠ μ {a : α | t < g a}) : 0 < μ {a : α | g a = t} := by
+theorem meas_eq_pos_of_meas_le_ne_meas_lt
+    {α : Type*} [MeasurableSpace α] {μ : Measure α} {R : Type*} [LinearOrder R]
+    {g : α → R} {t : R} (ht : μ {a : α | t ≤ g a} ≠ μ {a : α | t < g a}) :
+    0 < μ {a : α | g a = t} := by
+  by_contra con
+  rw [not_lt, nonpos_iff_eq_zero] at con
+  apply ht
+  -- Without the "redundant" `by exact` in the following, one gets a strange goal.
+  apply le_antisymm ?_ (by exact (measure_mono (fun a ha ↦ le_of_lt ha)))
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Integral/Layercake.lean:283]:
```suggestion
  refine le_antisymm ?_ (measure_mono (fun a ha ↦ le_of_lt ha))
```

File: Mathlib/MeasureTheory/Measure/Lebesgue/Basic.lean [hunk 7]
```diff
@@ -577,6 +577,68 @@ theorem volume_regionBetween_eq_lintegral [SigmaFinite μ] (hf : AEMeasurable f
           (regionBetween_subset (AEMeasurable.mk f hf) (AEMeasurable.mk g hg) s)).symm
 #align volume_region_between_eq_lintegral volume_regionBetween_eq_lintegral
 
+lemma nullMeasurableSet_fst_mem {α β : Type*} [MeasurableSpace α] [MeasurableSpace β]
+    {μ : Measure α} {ν : Measure β} [SigmaFinite ν] {s : Set α} (s_mble : NullMeasurableSet s μ) :
+    NullMeasurableSet {p : α × β | p.fst ∈ s} (μ.prod ν) := by
+  convert s_mble.prod (ν := ν) nullMeasurableSet_univ
+  ext p
+  simp only [mem_setOf_eq, mem_prod, mem_univ, and_true]
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Measure/Lebesgue/Basic.lean:585]: It's definitely not the right place for this lemma. However, I would just erase it completely, as it has a one-line proof that you can use instead in your application: `s_mble.preimage quasiMeasurePreserving_fst`.

**Review by sgouezel — COMMENTED** [review]
bors d+
Thanks!

File: Mathlib/MeasureTheory/Measure/Lebesgue/Basic.lean (hunk 7 above)
Comment (kkytola) [reply Mathlib/MeasureTheory/Measure/Lebesgue/Basic.lean:585]: Thank you for the concise proof! I erased the lemma.
